US07648985B2
(i) 2-Benzo[d]isoxazol-3-yl-ethanol
To a solution of benzo[d]isoxazol-3-yl-acetic acid (0.86 g, 4.85 mmol) in anhydrous THF (40 mL) was added dropwise borane dimethylsulfide complex (0.58 mL, 10 M, 5.8 mmol) at 0° C. The mixture was allowed to warm to room temperature and was stirred over night. MeOH (10 mL) was carefully added and when the gas evolution ceased, the mixture was heated under gentle reflux for 4 hours. The reaction mixture was concentrated in vacuo and the remainder was dissolved in dichloromethane (20 mL). An aqueous solution of Na2CO3 (20 mL) was added and the aqueous layer was extracted with dichloromethane (3×20 mL). The combined organic layers were dried over Na2SO4 and concentrated in vacuo. The crude product was purified by chromatography on silica gel which afforded 537 mg (67.8%) of the title compound.

reactant | benzo[d]isoxazol-3-yl-acetic acid | 4.85 mmol, 0.86 g | O1N=C(C2=C1C=CC=C2)CC(=O)O | C9H7NO3
reactant | MeOH | 10 mL | CO | CH4O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 2-Benzo[d]isoxazol-3-yl-ethanol | 537 mg, 67.8% | O1N=C(C2=C1C=CC=C2)CCO | C9H9NO2
